US05194441
1-(Pyrid-3-yl)-2-(2-bromophenyl)-2-hydroxyethanone
146 g (0.8 mol) of 2-bromobenzaldehyde, 85.6 g (0.8 mol) of 3-pyridinealdehyde, 20 g (0.08 mol) of 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazoliumbromide and 40.4 g (0.4 mol) of triethylamine in 500 ml of ethanol were heated at 75° C. for 16 hours. Thereafter, the ethanol was distilled off and the residue was taken up in methylene chloride. The solution was washed twice with water and then extracted twice with 300 ml of 4N hydrochloric acid. The acidic aqueous phase was then rendered slightly alkaline with 4N sodium hydroxide solution and extracted three times with methylene chloride. After the solvent had been distilled off, the crude product was stirred with isopropanol, filtered off under suction and dried to give a product of melting point 105°-108° C.

reactant | 2-bromobenzaldehyde | 0.8 mol, 146 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 3-pyridinealdehyde | 0.8 mol, 85.6 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | triethylamine | 0.4 mol, 40.4 g | C(C)N(CC)CC | C6H15N
catalyst | 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazoliumbromide | 0.08 mol, 20 g | [Br-].C(C)[N+]1=CSC(=C1C)CCO
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-(Pyrid-3-yl)-2-(2-bromophenyl)-2-hydroxyethanone | N1=CC(=CC=C1)C(C(O)C1=C(C=CC=C1)Br)=O | C13H10BrNO2
